US07390798B2
Step A. (±)-Dimethyl 1,2,3,4-tetrahydronaphthalene-2,6-dicarboxylate
A mixture of dimethyl naphthalene-2,6-dicarboxylate (25.0 g, 102 mmol) and 5% Pd—C (5.0 g) in AcOH (75 mL) was shaken under an atmosphere of hydrogen (ca. 150 p.s.i.) at 80° C. for 6 h. The reaction mixture was cooled, purged with argon, and filtered through a pad of Celite, washing with AcOH. The filtrate was concentrated under reduced pressure to give the title compound. MS: m/z=249 (M+1).

reactant | dimethyl naphthalene-2,6-dicarboxylate | 102 mmol, 25.0 g | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
solvent | AcOH | 75 mL | CC(=O)O | C2H4O2
catalyst | Pd—C | 5.0 g | [Pd] | Pd
product | (±)-Dimethyl 1,2,3,4-tetrahydronaphthalene-2,6-dicarboxylate | C1C(CCC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H16O4
